US04997844
Using a similar procedure to that described in Example 157, but using cyclopentyl chloroformate and N-(7-[6-aminoindol-1-yl]heptanoyl)benzenesulphonamide, N-(7-[6-(cyclopentyloxycarbonyl)aminoindol-1-yl]heptanoyl)benzenesulphonamide was obtained in 51% yield as a solid, m.p. 74°-76° C.; microanalysis, found, C,62.74; H,6.54; N,7.84%; C27H33N3O5S, 1/4H2O requies: C, 62.83; H,6.54; N,8.14%.

reactant | cyclopentyl chloroformate | ClC(=O)OC1CCCC1 | C6H9ClO2
reactant | N-(7-[6-aminoindol-1-yl]heptanoyl)benzenesulphonamide | NC1=CC=C2C=CN(C2=C1)CCCCCCC(=O)NS(=O)(=O)C1=CC=CC=C1 | C21H25N3O3S
product | N-(7-[6-(cyclopentyloxycarbonyl)aminoindol-1-yl]heptanoyl)benzenesulphonamide | 51% yield | C1(CCCC1)OC(=O)NC1=CC=C2C=CN(C2=C1)CCCCCCC(=O)NS(=O)(=O)C1=CC=CC=C1 | C27H33N3O5S
